US08012976B2
Methyl 4-oxo-2-phenyl-3-(thiazol-5-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate (110 mg, 0.29 mmol) and hydrazine monohydrate (2 mL) were added to methanol (10 mL) and the mixture was stirred room temperature for 4 h. The resulting mixture was evaporated under reduced pressure to 10 mL and then filtered; the filtrate was concentrated to give 8-phenyl-9-(thiazol-5-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (13 mg, yield 13%) as a white solid. 1H-NMR (400 MHz, CD3OD) δ (ppm): 4.67 (d, 1H), 4.78 (d, 1H), 7.10-7.19 (m, 4H), 7.24 (t, 2H), 7.45-7.56 (m, 2H), 8.76 (s, 1H); LC-MS (ESI) m/z: 347 (M+1)+.

reactant | Methyl 4-oxo-2-phenyl-3-(thiazol-5-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.29 mmol, 110 mg | O=C1C(C(NC=2C=CC=C(C12)C(=O)OC)C1=CC=CC=C1)C1=CN=CS1 | C20H16N2O3S
reactant | hydrazine monohydrate | 2 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
product | 8-phenyl-9-(thiazol-5-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 13 mg, yield 13% | C1(=CC=CC=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CN=CS1 | C19H14N4OS
